US08664401B2
Step A) (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Pd EnCat™ (133 mg, 0.04 mmol, 0.1 equiv), was added to a mixture of potassium carbonate (166 mg, 1.2 mmol, 3.0 equiv), [(E)-2-phenylvinyl]boronic acid (65 mg, 0.44 mmol, 1.1 equiv), and (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (200 mg, 0.40 mmol), which may be synthesized as described Preparation 2B, in 2:1 1,4-dioxane-water (3.6 mL). The reaction was heated to 80° C. and allowed to stir overnight. The reaction was diluted with ethyl acetate (10 mL), filtered through a pad of Celite, and concentrated under reduced pressure. The crude material was purified by flash chromatography ((1:1-0:1 heptane/ethyl acetate) to provide a white residue (90 mg, 47%). MS (LCMS) m/z 473.7 (M−1).

reactant | potassium carbonate | 1.2 mmol, 166 mg, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | [(E)-2-phenylvinyl]boronic acid | 0.44 mmol, 65 mg, 1.1 equiv | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.40 mmol, 200 mg | IC1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | 1,4-dioxane water | 3.6 mL | O1CCOCC1.O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd | [Pd] | Pd
product | (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 90 mg, 47% | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)\C=C\C1=CC=CC=C1)=O)S(=O)(=O)C | C24H30N2O6S
